US04056621
i. 3-Hydroxy-2-hydroxymethylpyridine (4.4 g) was added to a solution of sodium (0.81 g) in methanol (50 ml). The solvent was evaporated off, treated with toluene, reevaporated and taken up in dimethylsulphoxide (88 ml) to which was added methyl iodide (5.0 g) in dimethylsulphoxide (12 ml) while the solution was stirred for 30 minutes at 18°. After standing overnight, the solvent was removed and the residue was partitioned between chloroform and water. The chloroform extract was evaporated and a solution of the residue in ethanol was treated with ethanolic hydrogen chloride to yield 2-hydroxymethyl-3-methoxypyridine hydrochloride (3.0 g) m.p. 208° dec. 2-Hydroxymethyl-3-methoxypyridine (4.2 g) was dissolved in chloroform (60 ml) and to the stirred solution was added thionyl chloride (6 ml). After stirring for 90 minutes and evaporation of the solvent, the residue was recrystallised from ethanol/ether to give 2-chloromethyl-3-methoxypyridine hydrochloride (5.1 g), m.p. 171.5°- 171.5°.

reactant | 2-Hydroxymethyl-3-methoxypyridine | 4.2 g | OCC1=NC=CC=C1OC | C7H9NO2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-methoxypyridine hydrochloride | 5.1 g | Cl.ClCC1=NC=CC=C1OC | InChI=1S/C7H8ClNO.ClH/c1-10-7-3-2-4-9-6(7)5-8;/h2-4H,5H2,1H3;1H
